US05344843
A mixture of rac.-4-[[2-(2-naphthalenyloxy)ethyl]sulfinyl]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in hot methanol (5 mL) and sufficient tetrahydrofuran to dissolve the solids was treated with 1N sodium hydroxide (2.0 mL) and diluted with water. The organic solvent was removed under vacuum and the residue was mixed with water, acidified with excess 2N hydrochloric acid, and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from acetone-hexane provided 0.35 g of rac.-4-[[2-(2-naphthalenyloxy) ethyl]sulfinyl]-alpha-oxobenzeneacetic acid as a yellow solid, mp 157°-158° C.

reactant | rac.-4-[[2-(2-naphthalenyloxy)ethyl]sulfinyl]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)S(=O)CCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5S
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | rac.-4-[[2-(2-naphthalenyloxy) ethyl]sulfinyl]-alpha-oxobenzeneacetic acid | 0.35 g | C1=C(C=CC2=CC=CC=C12)OCCS(=O)C1=CC=C(C=C1)C(C(=O)O)=O | C20H16O5S
